US05559111
4-Aminobutyric acid N-(2-methoxyethyl)amide hydrochloride
2.95 g of 4-benzyloxycarbonylaminobutyric acid N-(2-methoxyethyl)amide are hydrogenated in the presence of 0.24 g of 10% Pd/C in 150 ml of methanol and 100 ml of 0.1N hydrochloric acid for 2 hours at room temperature and under normal pressure. The reaction mixture is filtered and concentrated by evaporation. The crude title compound is obtained: 1H NMR (CD3OD), δ(ppm)=4.92(4H, s), 3.53-3.20 (4H, m), 3.34 (3H, 2.96 (2H, t, J=12 Hz), 2.37 (2H, t, J=12 Hz), 1.93 (2H, m).

reactant | 4-benzyloxycarbonylaminobutyric acid N-(2-methoxyethyl)amide | 2.95 g | COCCNC(CCCNC(=O)OCC1=CC=CC=C1)=O | C15H22N2O4
reactant | hydrochloric acid | 0.1N, 100 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 0.24 g | [Pd] | Pd
product | 4-Aminobutyric acid N-(2-methoxyethyl)amide hydrochloride | Cl.COCCNC(CCCN)=O | InChI=1S/C7H16N2O2.ClH/c1-11-6-5-9-7(10)3-2-4-8;/h2-6,8H2,1H3,(H,9,10);1H
